US06444823B1
N-[4-(1-Diphenylphosphinyl-piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-propionamide (Substance 223)
3.4 ml (17.3 mmol) diphenylphosphinic acid chloride are dissolved in 100 ml absolute THF and cooled to ca. 0° C. under moisture exclusion. 5.0 g (17.3 mmol) N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide and 4.8 ml (34.6 mmol) TEA are dissolved in 50 ml absolute THF and added dropwise under ice cooling. The mixture is stirred for three days at RT without further cooling. Subsequently, the solvent is removed under vacuum to a large extent and the residue is taken up in 100 ml 10% sodium hydroxide solution and extracted twice, each with 150 ml CHCl3. The combined organic phases are washed with saturated NaCl-solution, dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH (90/10) and crystallized from diisopropyl ether after drawing off the solvent. Colorless crystals with an MP of 134-135° C. yield 5.3 g (62%).

reactant | diphenylphosphinic acid chloride | 17.3 mmol, 3.4 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide | 17.3 mmol, 5.0 g | N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C17H27N3O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-[4-(1-Diphenylphosphinyl-piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-propionamide | C1(=CC=CC=C1)P(=O)(N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C29H36N3O2P
